US09340538B2
3-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)-3-methylbutanoic acid
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (3.02 g, 6 mmol) was reacted with 3-methyl-3-(morpholin-3-yl)butanoic acid hydrochloride (1.34 g, 6 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (1.5 g, 41%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 6 mmol, 3.02 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | 3-methyl-3-(morpholin-3-yl)butanoic acid hydrochloride | 6 mmol, 1.34 g | Cl.CC(CC(=O)O)(C)C1NCCOC1
product | 3-(4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholin-3-yl)-3-methylbutanoic acid | 1.5 g, 41% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(CC(=O)O)(C)C)C(=O)OCC | C26H30BrFN4O5S
